US09422281B2
A mixture of 3-fluoro-4-nitropyridine (0.400 mL, 4.05 mmol), (S)-2-aminopropane-1-ol (0.347 mL, 4.46 mmol) and potassium carbonate (0.616 g, 4.46 mmol) in DMF (5.0 mL) was stirred at 60° C. for 2 h. Water was added and the mixture stirred at room temperature to afford a precipitate. The mixture was filtered to afford an orange solid. The filtrate was extracted with dichloromethane. The organic extracts were washed with brine, dried over anhydrous sodium sulfate, filtrate, and concentrated to afford an orange solid. The solids were combined and purified via column chromatography on silica gel (Biotage 50 g column, gradient elution with 0-10% methanol-dichloromethane) to afford (S)-2-(4-nitropyridin-3-ylamino)propane-1-ol (0.668 g, 84%) as an orange solid. MS (ESI, pos. ion) m/z 198.

reactant | 3-fluoro-4-nitropyridine | 4.05 mmol, 0.400 mL | FC=1C=NC=CC1[N+](=O)[O-] | C5H3FN2O2
reactant | (S)-2-aminopropane-1-ol | 4.46 mmol, 0.347 mL | N[C@H](CO)C | C3H9NO
reactant | potassium carbonate | 4.46 mmol, 0.616 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | DMF | 5.0 mL | CN(C)C=O | C3H7NO
product | (S)-2-(4-nitropyridin-3-ylamino)propane-1-ol | 0.668 g, 84% | [N+](=O)([O-])C1=C(C=NC=C1)N[C@H](CO)C | C8H11N3O3
